US04462934
A. Benzyl chloromethyl trans-1,4-cyclohexanedicarboxylate
To a mixture of 3.06 g (0.036 mole) sodium bicarbonate, 5.46 g (0.018 mole) potassium benzyl trans-1,4-cyclohexanedicarboxylate, 50 ml water and 500 ml chloroform is added 6.17 g (0.018 mole) tetrabutylammonium hydrogen sulfate and the mixture is stirred at room temperature overnight. The layers are separated. The aqueous layer is extracted twice with chloroform and the combined chloroform layers are dried and evaporated to dryness. The resulting tetrabutylammonium salt is taken up in methylene chloride (20 ml) and the solution added dropwise to 20 ml of bromochloromethane at 0° C. The resulting mixture is stirred at ambient temperature for 70 hours, the solvent evaporated and ethyl acetate added to the residue. The precipitated tetrabutylammonium bromide is removed by filtration, the filtrate dried (Na2SO4) and evaporated in vacuo to obtain 5 g (91%) of crude product. Purification by silica gel chromatography, eluting with 1:3 ethyl ether/hexane gave 1.9 g (35%) of the desired product as an oil.

reactant | sodium bicarbonate | 0.036 mole, 3.06 g | C([O-])(O)=O.[Na+]
reactant | potassium benzyl trans-1,4-cyclohexanedicarboxylate | 0.018 mole, 5.46 g | [C@H]1(CC[C@H](CC1)C(=O)[O-])C(=O)OCC1=CC=CC=C1.[K+]
reactant | water | 50 ml | O | H2O
reactant | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrabutylammonium hydrogen sulfate | 0.018 mole, 6.17 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | Benzyl chloromethyl trans-1,4-cyclohexanedicarboxylate | 1.9 g, 35% | [C@H]1(CC[C@H](CC1)C(=O)OCCl)C(=O)OCC1=CC=CC=C1 | C16H19ClO4
